US07507740B2
(i) Production of ethyl 5-[(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)methyl]-2-furoate
To a suspension of 4-chloro-5H-pyrrolo[3,2-d]pyrimidine (500 mg) in N,N-dimethylformamide (6.5 mL) was added potassium carbonate (541 mg) under ice-cooling, and the mixture was stirred for 15 min. while warming to room temperature. Ethyl 5-(chloromethyl)-2-furoate (737 mg) was added to the reaction mixture, and the mixture was stirred at room temperature for 16 hrs. The reaction mixture was diluted with water (20 mL), and extracted with a mixed solvent (40 mL×3) of ethyl acetate/tetrahydrofuran (1/1). The organic layer washed with saturated brine (20 mL×3) and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was subjected to silica gel column chromatography (silica gel, eluent:hexane/ethyl acetate=80/20→10/90). The object fraction was concentrated under reduced pressure and dried to give the title compound (825 mg) as a pale-yellow solid.

reactant | 4-chloro-5H-pyrrolo[3,2-d]pyrimidine | 500 mg | ClC=1C2=C(N=CN1)C=CN2 | C6H4ClN3
reactant | potassium carbonate | 541 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl 5-(chloromethyl)-2-furoate | 737 mg | ClCC1=CC=C(O1)C(=O)OCC | C8H9ClO3
solvent | N,N-dimethylformamide | 6.5 mL | CN(C=O)C | C3H7NO
solvent | water | 20 mL | O | H2O
product | ethyl 5-[(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)methyl]-2-furoate | 825 mg | ClC=1C2=C(N=CN1)C=CN2CC2=CC=C(O2)C(=O)OCC | C14H12ClN3O3
